US05519138
2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]-3,5-dichloro-benzyl]-6-cyclohexylaminocarbonylamino-benzimidazole
Prepared analogously to Example 1b from 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]-3,5-dichlorobenzyl]-6-cyclohexylaminocarbonylamino-benzimidazole and 1N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]-3,5-dichlorobenzyl]-6-cyclohexylaminocarbonylamino-benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC(=C(C(=C1)Cl)OC(C1=CC=CC=C1)C(=O)OCC)Cl)C=C(C=C2)NC(=O)NC2CCCCC2 | C35H40Cl2N4O4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]-3,5-dichloro-benzyl]-6-cyclohexylaminocarbonylamino-benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC(=C(C(=C1)Cl)OC(C1=CC=CC=C1)C(=O)O)Cl)C=C(C=C2)NC(=O)NC2CCCCC2 | C33H36Cl2N4O4
